US08314088B2
8-benzyl-N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine
To a solution of 2-[benzyl({3-chloro-5-[cyclobutyl(methyl)amino]pyrazin-2-yl}methyl)amino]ethanol (0.74 g) in DMF (4 mL) was added potassium tert-butoxide (0.28 g) at 0° C., and the mixture was stirred for 2 hr. Water (10 mL) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 10→40% ethyl acetate/hexane) to give the title compound (0.48 g, 71%) as a pale-yellow oil.

reactant | 2-[benzyl({3-chloro-5-[cyclobutyl(methyl)amino]pyrazin-2-yl}methyl)amino]ethanol | 0.74 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N(C)C1CCC1 | C19H25ClN4O
reactant | potassium tert-butoxide | 0.28 g | CC(C)([O-])C.[K+]
reactant | Water | 10 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 8-benzyl-N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 0.48 g, 71% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(C)C2CCC2 | C19H24N4O
